US05366987
(b) α-[(hydroxyamino)iminomethyl]-N-(2,4,6-trimethoxyphenyl)-benzeneacetamide
Hydroxylamine hydrochloride (11.95 g, 0.17 mol) was added to a solution of triethylamine (23.9 mL, 0.17 mol) in 50% ethanol/water (40 mL), and the mixture was stirred with ice, cooling until the NH2OH.HCl dissolved (0.5 hour). The mixture was then diluted with ethanol (300 mL) and α-cyano-N-(2,4,6-trimethoxyphenyl)-benzene acetamide (44.9 g, 0.138 mol) added in one portion and the mixture refluxed for 8 hours, allowed to cool, and poured into water (2 L) to yield a 2-phase oil/water mixture. The aqueous phase was concentrated in vacuo and the precipitate collected. The oil phase was triturated with chloroform to yield a white solid which was combined with the previous lot to yield 33.6 g, 68%, % (found): C, 60.35; H, 6.11; N, 11.60.

reactant | Hydroxylamine hydrochloride | 0.17 mol, 11.95 g | Cl.NO
reactant | triethylamine | 0.17 mol, 23.9 mL | C(C)N(CC)CC | C6H15N
reactant | NH2OH.HCl | NO.Cl
reactant | α-cyano-N-(2,4,6-trimethoxyphenyl)-benzene acetamide | 0.138 mol, 44.9 g | C(#N)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C18H18N2O4
reactant | water | 2 L | O | H2O
solvent | ethanol water | 40 mL | C(C)O.O
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | α-[(hydroxyamino)iminomethyl]-N-(2,4,6-trimethoxyphenyl)-benzeneacetamide | ONN=CC(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C18H21N3O5
